US07777047B2
ethyl 7-amino-1-(methoxymethyl)-1H-indole-2-carboxylate
A mixture of ethyl 1-(methoxymethyl)-7-nitro-1H-indole-2-carboxylate (2.35 g), 10% palladium-carbon (0.24 g), ethanol (4 ml) and tetrahydrofuran (10 ml) was stirred overnight at room temperature under hydrogen atmosphere. The palladium-carbon was removed by filtration, and the filtrate was concentrated. The residue was subjected to silica gel column chromatography to give the title compound (1.92 g, yield 91%) as a yellow oil from a fraction eluted with ethyl acetate-hexane (1:3, volume ratio).

reactant | ethyl 1-(methoxymethyl)-7-nitro-1H-indole-2-carboxylate | 2.35 g | COCN1C(=CC2=CC=CC(=C12)[N+](=O)[O-])C(=O)OCC | C13H14N2O5
reactant | ethanol | 4 ml | C(C)O | C2H6O
catalyst | palladium-carbon | 0.24 g | [C].[Pd]
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | ethyl 7-amino-1-(methoxymethyl)-1H-indole-2-carboxylate | 1.92 g, yield 91% | NC=1C=CC=C2C=C(N(C12)COC)C(=O)OCC | C13H16N2O3
